US05811459
A mixture of 4-(3-(2-benzyloxyphenyl)propyl]benzoic acid (1.0 g), 1-HOBT (0.39 g) and DCCI (0.595 g) in DMF (10 ml) was stirred for 3 hours, then added to a solution of N-methylhydroxylamine HCl (0.24 g) and Et3N (0.29 g) in CH2Cl2 (10 ml) and stirred for 70 hours. The product was extracted in 2N aqueous KOH and washed with ethyl acetate. The aqueous solution was acidified with concentrated HCl and extracted with diethyl ether. The solvent was evaporated and the residue subjected to flash chromatography on silica gel (using diethyl ether:methanol (95:5) as eluant) to give N-methyl-N-hydroxy-4-(3-(2-benzyloxyphenyl)propyl)benzamide as a gum (0.39 g).

reactant | 4-(3-(2-benzyloxyphenyl)propyl]benzoic acid | 1.0 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCCC1=CC=C(C(=O)O)C=C1 | C23H22O3
reactant | DCCI | 0.595 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-methylhydroxylamine HCl | 0.24 g | Cl.CNO
reactant | Et3N | 0.29 g | CCN(CC)CC | C6H15N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-methyl-N-hydroxy-4-(3-(2-benzyloxyphenyl)propyl)benzamide | 0.39 g | CN(C(C1=CC=C(C=C1)CCCC1=C(C=CC=C1)OCC1=CC=CC=C1)=O)O | C24H25NO3
